US07482341B2
Step B]: 6-(4-Chloro-benzyloxymethyl)-pyridin-2-ylamine
This material was prepared in analogy to example 86 step B] from N-[6-(4-chloro-benzyloxymethyl)-pyridin-2-yl]-2,2-dimethyl-propionamide (0.868 g) and 3M aqueous NaOH (5.22 mL) as a light yellow liquid (0.63 g). MS (ESI): 249.1 (MH+).

reactant | N-[6-(4-chloro-benzyloxymethyl)-pyridin-2-yl]-2,2-dimethyl-propionamide | 0.868 g | ClC1=CC=C(COCC2=CC=CC(=N2)NC(C(C)(C)C)=O)C=C1 | C18H21ClN2O2
reactant | NaOH | 3M, 5.22 mL, 0.63 g | [OH-].[Na+]
product | 6-(4-Chloro-benzyloxymethyl)-pyridin-2-ylamine | ClC1=CC=C(COCC2=CC=CC(=N2)N)C=C1 | C13H13ClN2O
